US04191554
Fifteen parts of thionyl chloride or oxalyl chloride are added to 2 parts of 2,6-diphenoxybenzoic acid. The mixture is heated under reflux for 30 minutes, and the excess chloride is distilled. The residue crystallizes to give 2,6-diphenoxybenzoyl chloride, M.P. 72°-73°.

reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2,6-diphenoxybenzoic acid | O(C1=CC=CC=C1)C1=C(C(=O)O)C(=CC=C1)OC1=CC=CC=C1 | C19H14O4
product | 2,6-diphenoxybenzoyl chloride | O(C1=CC=CC=C1)C1=C(C(=O)Cl)C(=CC=C1)OC1=CC=CC=C1 | C19H13ClO3
